US04440802
EPOXIDE RESIN B
N,N'-Diglycidyl-5,5-dimethylhydantoin (8.04 epoxide equiv./kg, 100 g), a diglycidyl ether of a polyoxypropylene glycol of average molecular weight 425 (3.07 epoxide equiv./kg, 200 g), bisphenol A diglycidyl ether (5.30 epoxide equiv./kg, 100 g), bisphenol A (100 g) and N-phenylimidazole (0.4 g) are stirred at 120° C. for 31/2 hours, by which time the epoxide content of the mixture is 2.67 epoxide equiv./kg.

reactant | N,N'-Diglycidyl-5,5-dimethylhydantoin | C(C1CO1)N1C(=O)N(C(=O)C1(C)C)CC1CO1 | C11H16N2O4
reactant | diglycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
reactant | bisphenol A diglycidyl ether | C(C1CO1)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC1CO1 | C21H24O4
reactant | bisphenol A | 100 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | N-phenylimidazole | 0.4 g | C1(=CC=CC=C1)N1C=NC=C1 | C9H8N2
product | EPOXIDE RESIN | C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C.C1C(O1)COCC2=CC=CC=C2 | InChI=1S/C10H12O2.C10H10.C8H8/c1-2-4-9(5-3-1)6-11-7-10-8-12-10;1-3-9-5-7-10(4-2)8-6-9;1-2-8-6-4-3-5-7-8/h1-5,10H,6-8H2;3-8H,1-2H2;2-7H,1H2
